US07531532B2
4-(4-Amino-2-fluorophenoxy)-2-[(4-hydroxypiperidin-1-yl)carbonylamino]pyridine
4-(2-Fluoro-4-nitrophenoxy)-2-[(4-hydroxypiperidin-1-yl)carbonylamino]pyridine (169 mg) was dissolved in methanol (5 ml)-tetrahydrofuran (5 ml), and then 10% palladium carbon (200 mg) was added thereto under a nitrogen atmosphere, followed by replacing with hydrogen inside the system and stirring for 2 hrs. After replacing with nitrogen inside the system, the reaction mixture was filtered to remove the catalyst, which was washed with ethyl acetate. The filtrate was concentrated under a reduced pressure to provide the titled compound (168 mg, quantitatively) as pale yellow powder.

reactant | 4-(2-Fluoro-4-nitrophenoxy)-2-[(4-hydroxypiperidin-1-yl)carbonylamino]pyridine | 169 mg | FC1=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)O)C=CC(=C1)[N+](=O)[O-] | C17H17FN4O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 ml | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | palladium carbon | 200 mg | [C].[Pd]
product | 4-(4-Amino-2-fluorophenoxy)-2-[(4-hydroxypiperidin-1-yl)carbonylamino]pyridine | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)O)C=C1)F | C17H19FN4O3
